US05527819
Preparation of 5-Chloro-3-phenylsulfinylindole-2-carboxamide (Compound 17)
A solution of magnesium monoperoxyphthalic acid (85% peracid) (11.8 mg, 0.024 mmol) in methanol (2 mL) was added dropwise to a solution of 5-chloro-3-phenylthioindole-2-carboxamide (14.5 mg, 0.048 mmol) in methanol (2 mL) at 0° C. The reaction was stirred at 20° C. for 4 hours. A solution of 10% aqueous sodium thiosulfate was added and the reaction stirred vigorously for 10 minutes. Methanol was removed in vacuo and the residue partitioned between ethyl acetate and water. The ethyl acetate extract was washed with brine and dried over magnesium sulfate. The crude product was purified by column chromatography on silica gel with 30-40% ethyl acetate in hexane. The title compound was obtained as a white solid. NMR, (DMSO-d6, 300 MHz) δ12.53(1H, s), 8.35(1H,br s), 8.08(1H,br s), 7.83(1H,d,J=2 Hz), 7.71(2H,d,J=8 Hz), 7.52(4H,m), 7.30(1H,dd,J=9,2 Hz).

reactant | magnesium monoperoxyphthalic acid | 0.024 mmol, 11.8 mg | C(C=1C(C(=O)O)=CC=CC1)(=O)OO.[Mg]
reactant | 5-chloro-3-phenylthioindole-2-carboxamide | 0.048 mmol, 14.5 mg | ClC=1C=C2C(=C(NC2=CC1)C(=S)N)C1=CC=CC=C1 | C15H11ClN2S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 2 mL | CO | CH4O
reactant | methanol | 2 mL | CO | CH4O
product | 5-Chloro-3-phenylsulfinylindole-2-carboxamide | ClC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)C1=CC=CC=C1 | C15H11ClN2O2S
